2165-10-02 08:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Repeated CXR this AM to compare to CXR from OSH
   -Bronchoscopy performed showing large mucous plug in left mainstem
   bronchus, lavage done and sent for PCP, [**Name10 (NameIs) 688**], sputum cultures
   -Received fluid boluses for hypotension, BP improved to
   Allergies:
   Amoxicillin
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2165-10-2**] 01:45 AM
   Aztreonam - [**2165-10-2**] 04:37 AM
   Levofloxacin - [**2165-10-2**] 07:33 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Phenylephrine - 2 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2165-10-2**] 12:48 AM
   Fentanyl - [**2165-10-2**] 02:39 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-10-2**] 08:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.3
C (100.9
   HR: 84 (83 - 94) bpm
   BP: 91/48(61) {90/47(1) - 106/57(73)} mmHg
   RR: 23 (21 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 8 (8 - 13)mmHg
   Total In:
                                                                  2,590 mL
                                                                  2,528 mL
   PO:
   TF:
   IVF:
                                                                  2,590 mL
                                                                  2,468 mL
   Blood products:
   Total out:
                                                                    440 mL
                                                                    900 mL
   Urine:
                                                                    330 mL
                                                                    750 mL
   NG:
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                  2,150 mL
                                                                  1,630 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 470 (470 - 550) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   Plateau: 18 cmH2O
   Compliance: 94 cmH2O/mL
   SpO2: 96%
   ABG: 7.28/40/95.[**Numeric Identifier 252**]/22/-7
   Ve: 12.9 L/min
   PaO2 / FiO2: 190
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   261 K/uL
   11.5 g/dL
   113 mg/dL
   1.2 mg/dL
   22 mEq/L
   4.0 mEq/L
   20 mg/dL
   111 mEq/L
   141 mEq/L
   35.6 %
   12.4 K/uL
        [image002.jpg]
                             [**2165-10-1**]  09:45 PM
                             [**2165-10-2**]  12:30 AM
                             [**2165-10-2**]  03:16 AM
                             [**2165-10-2**]  03:23 AM
                             [**2165-10-2**]  06:31 AM
                             [**2165-10-2**]  06:47 AM
   WBC
   10.3
   12.4
   Hct
   35.6
   35.6
   Plt
   241
   261
   Cr
   1.4
   1.2
   TropT
   <0.01
   TCO2
   24
   24
   20
   Glucose
   114
   113
   Other labs: PT / PTT / INR:13.9/32.5/1.2, CK / CKMB /
   Troponin-T:53//<0.01, ALT / AST:14/39, Alk Phos / T Bili:60/1.6,
   Differential-Neuts:70.0 %, Band:19.0 %, Lymph:3.0 %, Mono:0.0 %,
   Eos:5.0 %, Lactic Acid:1.6 mmol/L, Albumin:2.1 g/dL, LDH:303 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   Assessment/Plan: 51 yo man with IBD, pulmonary alveolar proteinosis who
   presents from [**Hospital6 6222**] with pneumonia and respiratory
   failure.
   .
   # Respiratory failure/Pneumonia: Likely in the setting of acute
   pulmonary process, like acute bacterial pneumonia. Community acquired
   most likely, especially given GPC growing in sputum at [**Hospital3 9141**]. Pt w/ [**Last Name (un) 7645**] dx of PAP putting him at higher risk as well for
   PCP, [**Name Initial (NameIs) 9142**]. No sign of PAP flare given mainly unilateral disease on
   his CXR.
   - ARDS type ventilation w/ low TV given poor oxygenation/?bilateral dz,
   AC - 6cc/hg
   - Repeat CXR
   - sputum, BAL cultures - specify modified [**Name Initial (NameIs) 688**] for [**Name Initial (NameIs) 9142**], PCP
   [**Name Initial (PRE) **] Legionella Ag
   - f/u cx data (including blood cx) from [**Hospital3 **]
   - broadly cover w/ vancomycin, aztreonam (cannot use ceftriaxone given
   amox allergy --> hives)
   - CT Chest without contrast
   .
   # Hypotension: Hypovolemia vs. sepsis. Responded well to NS boluses,
   still on low dose of neo drip. No reason to have adrenal insufficiency.
   [**Month (only) 8**] also be contributed by propofol drip
   - IVF bolus - NS x 3 L, reeval
   - Fentanyl/midaz drips in place of propofol
   - Neo drip, titrate to MAP > 60 for now
   - Monitor for signs of end organ ischemia
   .
   # Acute renal failure: Suspect this is due to hypovolemia, sepsis. Will
   give back fluids and recheck creatinine in the morning. If still high,
   will complete w/u --> urine lytes/sediment.renal U/S
   .
   # EKG changes: Some nonspecific ST segment abnormalities on lateral
   leads. No risk factors for CAD
   - Check TTE in am
   - add on CE's, cycle 3 sets
   - Monitor on telemetry
   .
   # Hypothyroidism: IV levothyroxine - home dose
   .
   # FEN: replete lytes, NPO
   Access: R A-ine, L subclav. subclavian
   # Code: FULL
   # Contact: Wife [**Name (NI) 2519**]
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2165-10-1**] 09:31 PM
   18 Gauge - [**2165-10-1**] 09:32 PM
   Multi Lumen - [**2165-10-2**] 12:42 AM
   Arterial Line - [**2165-10-2**] 12:46 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2165-10-03 07:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -CT chest:
   -TTE not impressive: Overall left ventricular systolic function is low
   normal (LVEF 50-55%). Mildly dilated right ventricle with borderline
   normal function. Small pericardial effusion with no signs of
   tamponade.
   -Contact[**Name (NI) **] PCP ([**Doctor Last Name 794**] - [**Telephone/Fax (1) 9162**]):
   -OSH phone [**Telephone/Fax (1) 9163**], sputum positive 3+ presumptive Strep PNA -
   sensitivities return [**10-3**], 4+ GPC; blood cx positive for presumptive
   strep PNA, all for bottles.
   - Pt diaphoretic with fever, IVF at 75/hr given
   - FIO2 down from 50---> 40%
   - Bolused a total of 3L, once at 7pm, twice between [**4-8**] AM, for
   hypotension and slowing down of UOP.
   Allergies:
   Amoxicillin
   Hives;
   Last dose of Antibiotics:
   Levofloxacin - [**2165-10-2**] 07:33 AM
   Vancomycin - [**2165-10-2**] 09:00 PM
   Aztreonam - [**2165-10-3**] 12:10 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2165-10-2**] 10:57 PM
   Fentanyl - [**2165-10-3**] 12:00 AM
   Midazolam (Versed) - [**2165-10-3**] 12:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-10-3**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 37.4
C (99.4
   HR: 78 (71 - 88) bpm
   BP: 86/57(66) {86/43(50) - 110/77(144)} mmHg
   RR: 24 (13 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 8 (4 - 11)mmHg
   Total In:
                                                                  6,564 mL
                                                                    665 mL
   PO:
   TF:
   IVF:
                                                                  6,354 mL
                                                                    665 mL
   Blood products:
   Total out:
                                                                  1,995 mL
                                                                    550 mL
   Urine:
                                                                  1,845 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,569 mL
                                                                    115 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 470 (470 - 470) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 24 cmH2O
   Plateau: 20 cmH2O
   SpO2: 94%
   ABG: 7.36/42/91.[**Numeric Identifier 253**]/24/-1
   Ve: 9.3 L/min
   PaO2 / FiO2: 230
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   229 K/uL
   9.9 g/dL
   102 mg/dL
   1.0 mg/dL
   24 mEq/L
   3.8 mEq/L
   17 mg/dL
   113 mEq/L
   144 mEq/L
   30.0 %
   11.6 K/uL
        [image002.jpg]
                             [**2165-10-1**]  09:45 PM
                             [**2165-10-2**]  12:30 AM
                             [**2165-10-2**]  03:16 AM
                             [**2165-10-2**]  03:23 AM
                             [**2165-10-2**]  06:31 AM
                             [**2165-10-2**]  06:47 AM
                             [**2165-10-2**]  02:50 PM
                             [**2165-10-3**]  02:21 AM
                             [**2165-10-3**]  03:22 AM
                             [**2165-10-3**]  04:55 AM
   WBC
   10.3
   12.4
   11.6
   Hct
   35.6
   35.6
   30.0
   Plt
   241
   261
   229
   Cr
   1.4
   1.2
   1.0
   TropT
   <0.01
   TCO2
   24
   24
   20
   24
   24
   25
   Glucose
   114
   113
   102
   Other labs: PT / PTT / INR:13.6/35.1/1.2, CK / CKMB /
   Troponin-T:53//<0.01, ALT / AST:14/39, Alk Phos / T Bili:60/1.6,
   Differential-Neuts:92.4 %, Band:19.0 %, Lymph:5.0 %, Mono:1.6 %,
   Eos:0.9 %, Lactic Acid:1.6 mmol/L, Albumin:2.1 g/dL, LDH:303 IU/L,
   Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.5 mg/dL
   Fluid analysis / Other labs: PaO2      92
   PCO2      42
   pH           7.36
   calTCO2  25
   Base excess -1
   1 set of tropes: .01
   Imaging: Echo:  LVEF 50-55%.  Mild regional left ventricular systolic
   dysfunction. Mildly dilated right ventricle with borderline normal
   function. Small pericardial effusion with no signs of tamponade.
   .
   Chest CT: Pending
   Microbiology: from OSH:
   sputum positive 3+ presumptive Strep PNA - sensitivities return [**10-3**],
   4+ GPC;
   .
   blood cx positive for presumptive strep PNA, all for bottles
   .
   [**10-1**] sputum - 2+ gram + cocci
   blood cxs, urine cxs pending
   UA: [**3-7**] WBC, -leukoesterase - nitrites
   sediment: few granular and hyaline casts
   Assessment and Plan
   Assessment and Plan
   Assessment/Plan: 51 yo man with IBD, pulmonary alveolar proteinosis who
   presents from [**Hospital6 6222**] with pneumonia and respiratory
   failure.
   .
   # Respiratory failure/Pneumonia: Likely secondary to acute infectious
   pneumonia in setting of chronic lung disease.  Cx from outside
   hospital  Community acquired most likely, especially given GPC growing
   in sputum at [**Hospital6 6222**]. Studies for Nocardia and PCP
   are pending.
   - cx data from OSH hospital suggestive of 3+ presumptive Strep PNA and
   strep bacteremia;  D/c vanc and aztreonam; continue levofloxacin (strep
   in blood from OSH is sensitive to levoquin; sensitivities of strep from
   sputum is pending)
   - Follow sputum and BAL cultures - specify modified AFB for Nocardia,
   PCP
   [**Name Initial (PRE) **] Follow repeat CXR from this AM
 consolidation appears worsened
   - Follow up CT Chest without contrast
   - Switching from ARDS type ventilation protocol to pressure support;
   decreasing PEEP to 8 to reduce compounding of hypotension
   - No need for whole lung lavage as unclear how much PAP is playing a
   role in current presentation; unilaterl disease makes it less likely;
   consider sending out GM-CSF antibodies
   .
   # Hypotension: Likely secondary to hypovolemia or underlying sepsis.
   No evidence for poor perfusion on physical exam; creatinines have been
   resolving
   -Can check mixed venous O2 sat to differentiate hypovolemia from
   distributive hypotension:  mixed venous O2 sat is 98% (high) more
   suggestive of distributive picture.  Continue to treat underlying
   infection.
   -Continue maintainence fluids and give IV fluid boluses as necessary
   -Has not required pressors; keep neo drip and titrate to MAP > 60
   .
   #Anemia: Hematocrit has trended down.  Check afternoon HCT.  Likely
   secondary to fluid boluses this AM and multiple blood draws.
   -Guiaic all stools
   -Repeat HCT this PM; transfusion goal of 20
   -hold on any iron studies given that this is more likely an acute
   change rather than a chronic process
   .
   #Pericardial effusion
 Unlikely due to volume overload given that
   there are no pleural effusions.  Could be secondary to infectious
   etiology (in setting of strep pneumonia) so would check troponins X 2
   today.
   .
   # Acute renal failure:
   -Resolving, was likely prerenal given response to fluids, trend Cr
   .
   # EKG changes: Some nonspecific ST segment abnormalities on lateral
   leads. No risk factors for CAD
   -1X troponins negative; echo does not show any wall abnormalities
   -no events on telemetry
   .
   # Hypothyroidism: IV levothyroxine - home dose
   .
   # FEN: replete lytes, started tube feeds, follow-up nutrition recs
   Access: R A-ine, L subclav. subclavian
   # Code: FULL
   # Contact: Wife [**Name (NI) 2519**]
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2165-10-1**] 09:31 PM
   18 Gauge - [**2165-10-1**] 09:32 PM
   Multi Lumen - [**2165-10-2**] 12:42 AM
   Arterial Line - [**2165-10-2**] 12:46 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2165-10-04 07:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - vancomycin and aztreonam discontinued
   - bronchoscopy performed with aspiration of large mucus plug
   - MVO2 96% suggesting sepsis
   - nutrition recs: fibersource @ 75 cc/hr as goal
   - patient self extubated at [**2076**] - post-extubation gas: 7.4/40/63/26 on
   70% high-flow mask, O2 increased to 99% with gas 7.4/39/108/25, good
   cough and sats 96-97%, O2 flow to 80% with ABG 7.4/41/95/26
   Allergies:
   Amoxicillin
   Hives;
   Last dose of Antibiotics:
   Aztreonam - [**2165-10-3**] 08:03 AM
   Vancomycin - [**2165-10-3**] 09:42 AM
   Levofloxacin - [**2165-10-3**] 11:17 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2165-10-3**] 08:05 AM
   Fentanyl - [**2165-10-3**] 02:37 PM
   Midazolam (Versed) - [**2165-10-3**] 02:47 PM
   Heparin Sodium (Prophylaxis) - [**2165-10-3**] 04:00 PM
   Famotidine (Pepcid) - [**2165-10-3**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-10-4**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38
C (100.4
   HR: 105 (71 - 118) bpm
   BP: 138/87(98) {88/47(59) - 138/94(179)} mmHg
   RR: 36 (11 - 36) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
    CVP: 9 (9 - 13)mmHg
   Mixed Venous O2% Sat: 96 - 96
   Total In:
                                                                  4,189 mL
                                                                     77 mL
   PO:
   TF:
                                                                     70 mL
   IVF:
                                                                  4,009 mL
                                                                     77 mL
   Blood products:
   Total out:
                                                                  2,010 mL
                                                                  1,300 mL
   Urine:
                                                                  1,760 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,179 mL
                                                                 -1,223 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Set): 470 (470 - 470) mL
   Vt (Spontaneous): 578 (578 - 757) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 13
   PEEP: 10 cmH2O
   FiO2: 95%
   PIP: 20 cmH2O
   Plateau: 21 cmH2O
   SpO2: 94%
   ABG: 7.40/41/95.[**Numeric Identifier 252**]/25/0
   Ve: 7.7 L/min
   PaO2 / FiO2: 238
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   237 K/uL
   9.7 g/dL
   97 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.4 mEq/L
   16 mg/dL
   112 mEq/L
   145 mEq/L
   29.2 %
   13.0 K/uL
        [image002.jpg]
                             [**2165-10-3**]  03:22 AM
                             [**2165-10-3**]  04:55 AM
                             [**2165-10-3**]  11:00 AM
                             [**2165-10-3**]  01:19 PM
                             [**2165-10-3**]  06:00 PM
                             [**2165-10-3**]  06:07 PM
                             [**2165-10-3**]  07:53 PM
                             [**2165-10-3**]  09:26 PM
                             [**2165-10-4**]  03:04 AM
                             [**2165-10-4**]  03:22 AM
   WBC
   13.0
   Hct
   27.3
   29.2
   Plt
   237
   Cr
   0.9
   TropT
   <0.01
   <0.01
   TCO2
   24
   25
   25
   26
   26
   25
   26
   Glucose
   97
   Other labs: PT / PTT / INR:13.9/30.3/1.2, CK / CKMB /
   Troponin-T:435/5/<0.01, ALT / AST:14/39, Alk Phos / T Bili:60/1.6,
   Differential-Neuts:92.4 %, Band:19.0 %, Lymph:5.0 %, Mono:1.6 %,
   Eos:0.9 %, Lactic Acid:1.6 mmol/L, Albumin:2.1 g/dL, LDH:303 IU/L,
   Ca++:8.7 mg/dL, Mg++:1.6 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   Assessment/Plan: 51 yo man with IBD, pulmonary alveolar proteinosis who
   presents from [**Hospital6 6222**] with pneumonia and respiratory
   failure.
   .
   # Respiratory failure/Pneumonia: Likely secondary to acute infectious
   pneumonia in setting of chronic lung disease.  Cx from outside
   hospital  Community acquired most likely, especially given GPC growing
   in sputum at [**Hospital6 6222**]. Studies for Nocardia and PCP
   are pending.  Self-extubated last night.
   -Currently on high Flow O2 at FiO2 of 80%.  SpO2 is 98%, blood gas: 95
   41 7.40 26.  Recheck gas; continue on high-flow mask and wean off O2 as
   tolerated.
   - cx data from OSH hospital suggestive of 3+ presumptive Strep PNA and
   strep bacteremia; continue levofloxacin (strep in blood from OSH is
   sensitive to levoquin; sensitivities of strep from sputum is pending)
   - Follow sputum and BAL cultures - specify modified AFB for Nocardia,
   PCP
   [**Name Initial (PRE) **] Follow repeat CXR from this AM
 consolidation was worsened
   yesterday; this AM looks
   - bronchoscopy performed with aspiration of large mucus plug; consider
   starting chest PT, mucolytics
   - No need for whole lung lavage as unclear how much PAP is playing a
   role in current presentation; unilaterl disease makes it less likely;
   consider sending out GM-CSF antibodies
   .
   # Hypotension: Likely secondary to underlying sepsis/distributive shock
   given high MVO2.
   -Continue to tx underlying infection as above
   -Continue maintainence fluids
   -Has not required pressors; keep neo drip and titrate to MAP > 60
   .
   #Anemia: Hematocrit has trended down.  Check afternoon HCT.  Likely
   secondary to fluid boluses this AM and multiple blood draws.
   -Guiaic all stools
   -HCTs were stable over past 24 hours
   -hold on any iron studies given that this is more likely an acute
   change rather than a chronic process
   .
   #Pericardial effusion
 Unlikely due to volume overload given that
   there are no pleural effusions.  Could be secondary to infectious
   etiology (in setting of strep pneumonia); no signs of tamponade.
   -troponins negative, making an infectious process less likely
   .
   # Acute renal failure:
   -Resolving, was likely prerenal given response to fluids, trend Cr
   .
   # EKG changes: Some nonspecific ST segment abnormalities on lateral
   leads. No risk factors for CAD
   -1X troponins negative; echo does not show any wall abnormalities
   -no events on telemetry
   .
   # Hypothyroidism: IV levothyroxine - home dose
   .
   # FEN: replete lytes, started tube feeds, follow-up nutrition recs
   Access: R a-line not functioning well; will need new one.  Left
   subclavian.
   # Code: FULL
   # Contact: Wife [**Name (NI) 2519**]
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2165-10-2**] 12:42 AM
   Arterial Line - [**2165-10-2**] 12:46 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2165-10-05 06:51:00 Physician Resident Progress Note
Chief Complaint: 51 yo man with IBD, pulmonary alveolar proteinosis who
   presents from [**Hospital6 6222**] with Strep pneumo  pneumonia
   and bacteremia and respiratory failure.  Currently extubated, with new
   mental status changes since yesterday.
   24 Hour Events:
 ARTERIAL LINE - STOP [**2165-10-4**] 08:00 AM
 BLOOD CULTURED - At [**2165-10-4**] 09:43 AM
   venipuncture
 URINE CULTURE - At [**2165-10-4**] 09:43 AM
   and ua
 BLOOD CULTURED - At [**2165-10-4**] 12:15 PM
   obtained from central line
   -noon blood gas on high flow mask: pH 7.47 pCO2 34 pO2 100 HCO3 25
   -obtaining head CT to look for any ischemia/acute processes
   -considering doing LP
   -thyroid function tests were normal
   -CT Head - no evidence of intracranial process
   [**Hospital 9185**] hospital sensitivities:  Blood and sputum show gram + coccus
   consistent with s pneumo, pan-sensitive to levofloxacin
   -Brudzinski and Kernig's sign is negative, no nuchal rigidity, slight
   elevation in WBC, hasn't been significantly febrile; unlikely to have
   meningitis but only way to R/o is w/ LP which may be low yield given
   abx initiation.
   Allergies:
   Amoxicillin
   Hives;
   Last dose of Antibiotics:
   Aztreonam - [**2165-10-3**] 08:03 AM
   Vancomycin - [**2165-10-3**] 09:42 AM
   Levofloxacin - [**2165-10-4**] 09:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2165-10-4**] 08:05 AM
   Famotidine (Pepcid) - [**2165-10-4**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-10-5**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.7
C (99.8
   HR: 90 (90 - 107) bpm
   BP: 139/73(88) {99/69(82) - 161/101(111)} mmHg
   RR: 33 (25 - 40) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 5 (5 - 9)mmHg
   Total In:
                                                                    480 mL
                                                                     64 mL
   PO:
   TF:
   IVF:
                                                                    480 mL
                                                                     64 mL
   Blood products:
   Total out:
                                                                  3,190 mL
                                                                    520 mL
   Urine:
                                                                  2,590 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,710 mL
                                                                   -456 mL
   Respiratory support
   O2 Delivery Device: High flow neb, Face tent
   SpO2: 95%
   ABG: 7.47/34/99.[**Numeric Identifier **]/26/1
   PaO2 / FiO2: 167
   Physical Examination
   Cardiovascular: Gen: NAD, MS [**First Name (Titles) 610**]
[**Last Name (Titles) **] CV: RRR, no murmurs, JVD =
   Resp: Reduced BS on Left, crackles on bilaterally to mid lung fields
   Ext: trace edema, 2+ DP
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   259 K/uL
   9.5 g/dL
   100 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.2 mEq/L
   16 mg/dL
   112 mEq/L
   146 mEq/L
   28.5 %
   13.5 K/uL
        [image002.jpg]
                             [**2165-10-3**]  11:00 AM
                             [**2165-10-3**]  01:19 PM
                             [**2165-10-3**]  06:00 PM
                             [**2165-10-3**]  06:07 PM
                             [**2165-10-3**]  07:53 PM
                             [**2165-10-3**]  09:26 PM
                             [**2165-10-4**]  03:04 AM
                             [**2165-10-4**]  03:22 AM
                             [**2165-10-4**]  12:47 PM
                             [**2165-10-5**]  02:36 AM
   WBC
   13.0
   13.5
   Hct
   27.3
   29.2
   28.5
   Plt
   237
   259
   Cr
   0.9
   0.9
   TropT
   <0.01
   <0.01
   TCO2
   25
   26
   26
   25
   26
   25
   Glucose
   97
   100
   Other labs: PT / PTT / INR:13.9/30.3/1.2, CK / CKMB /
   Troponin-T:435/5/<0.01, ALT / AST:14/39, Alk Phos / T Bili:60/1.6,
   Differential-Neuts:92.4 %, Band:19.0 %, Lymph:5.0 %, Mono:1.6 %,
   Eos:0.9 %, Lactic Acid:1.6 mmol/L, Albumin:2.1 g/dL, LDH:303 IU/L,
   Ca++:8.2 mg/dL, Mg++:1.7 mg/dL, PO4:2.2 mg/dL
   Fluid analysis / Other labs: 7.47/34/100/25     +1
   TSH:1.4 Free-T4:0.44
   Other Blood Chemistry:
   T4: 2.1
   T3: 44
   calcTBG: 0.95
   TUptake: 1.05
   T4Index: 2.2
   Imaging: CXR - LLL Pneumonia, improving right sided opacities more
   consistent with pulm edema
   Microbiology: UA - negative
   Urine culture - negative
   Blood Cx - NGTD
   Sputum - Gram pos cocci in pairs and chains
   OSH - Strep Pneumo [**Last Name (un) 46**] pan [**Last Name (un) 46**] to levo - in sputum and blood
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPOTENSION (NOT SHOCK)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   Assessment/Plan
   51 yo man with IBD, pulmonary alveolar proteinosis who presents from
   [**Hospital6 6222**] with pneumonia and respiratory failure.
   # Respiratory failure/Pneumonia: Likely secondary to acute infectious
   pneumonia in setting of chronic lung disease.  Cx from outside
   hospital  Community acquired most likely, especially given GPC growing
   in sputum at [**Hospital6 6222**]. Studies for Nocardia and PCP
   are pending.
   -Currently on high Flow O2.  SpO2 is 95%, Follow blood gas, continue on
   high-flow mask and wean off O2 as tolerated.
   - cx data from OSH hospital suggestive of 3+ presumptive Strep PNA and
   strep bacteremia; continue levofloxacin (strep in blood and sptum from
   OSH is sensitive to levoquin;)
   - Follow sputum and BAL cultures - specify modified AFB for Nocardia,
   PCP
   [**Name Initial (PRE) **] Follow repeat CXR from this AM
 not significantly changed from
   prior, possibly improved aeration in LL lung
   - bronchoscopy performed with aspiration of large mucus plug; consider
   starting chest PT, mucolytics
   - No need for whole lung lavage as unclear how much PAP is playing a
   role in current presentation; unilateral disease makes it less likely;
   consider sending out GM-CSF antibodies
   # Hypotension: Likely secondary to underlying sepsis/distributive shock
   given high MVO2.
   -Continue to tx underlying infection as above
   -Continue maintainence fluids
   -Has not required pressors; titrate to MAP > 60
   #Mental Status changes - [**Month (only) 8**] be secondary to sepsis, however, improving
   from his infection stand point.
   - Thyroid levels checked - T3, T4 levels low.  However, in setting of
   acute illness not reliable.
   - Electrolytes wnl
   - No signs of
   - No signs of meningismus, LP deferred
   #Anemia: Hematocrit has trended down.  Check afternoon HCT.  Likely
   secondary to fluid boluses this AM and multiple blood draws.
   -HCTs were stable over past 24 hours
   -hold on any iron studies given that this is more likely an acute
   change rather than a chronic process
   #Pericardial effusion
 Unlikely due to volume overload given that
   there are no pleural effusions.  Could be secondary to infectious
   etiology (in setting of strep pneumonia); no signs of tamponade.
   -troponins negative, making an infectious process less likely
   # Acute renal failure:  Resolved, likely prerenal given response to
   fluids, trend Cr
   # EKG changes: Some nonspecific ST segment abnormalities on lateral
   leads. No risk factors for CAD
   -1X troponins negative; echo does not show any wall abnormalities
   -no events on telemetry
   # Hypothyroidism: IV levothyroxine - home dose
   # FEN: replete lytes, started tube feeds, follow-up nutrition recs
   Access:  Left subclavian.
   # Code: FULL
   # Contact: Wife [**Name (NI) 2519**]
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2165-10-2**] 12:42 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2165-10-05 11:10:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, pneumococcal pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2165-10-4**] 08:00 AM
 BLOOD CULTURED - At [**2165-10-4**] 09:43 AM
   venipuncture
 URINE CULTURE - At [**2165-10-4**] 09:43 AM
   and ua
 BLOOD CULTURED - At [**2165-10-4**] 12:15 PM
   obtained from central line
   Self-extubated 2 nights ago.
   Remains on high flow mask, desturations with movement, mask shift.
   Head CT without contrast given new mental status changes - negative
   Autodiuresing
   Mental status improved, now A & O x 2 (name and place), responsive to
   commands
   Given 0.5 mg IV ativan for agitation earlier this morning.
   Patient states he is 'starving'
   Allergies:
   Amoxicillin
   Hives;
   Last dose of Antibiotics:
   Aztreonam - [**2165-10-3**] 08:03 AM
   Vancomycin - [**2165-10-3**] 09:42 AM
   Levofloxacin - [**2165-10-5**] 10:04 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2165-10-5**] 08:04 AM
   Heparin Sodium (Prophylaxis) - [**2165-10-5**] 08:04 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: Dry mouth
   Nutritional Support: NPO
   Respiratory: Dyspnea
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2165-10-5**] 11:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.6
C (99.7
   HR: 89 (87 - 107) bpm
   BP: 136/75(89) {99/69(82) - 156/101(111)} mmHg
   RR: 30 (25 - 40) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
   CVP: 6 (3 - 7)mmHg
   Total In:
                                                                    515 mL
                                                                    805 mL
   PO:
   TF:
   IVF:
                                                                    515 mL
                                                                    805 mL
   Blood products:
   Total out:
                                                                  3,190 mL
                                                                    760 mL
   Urine:
                                                                  2,590 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,675 mL
                                                                     45 mL
   Respiratory support
   O2 Delivery Device: High flow neb, Face tent
   SpO2: 98%
   ABG: 7.47/34/99.[**Numeric Identifier **]/26/1
   PaO2 / FiO2: 167
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Bronchial: left mid lung zone,
   Diminished: left base [**1-5**])
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): name, year, month, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   259 K/uL
   100 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.2 mEq/L
   16 mg/dL
   112 mEq/L
   146 mEq/L
   28.5 %
   13.5 K/uL
        [image002.jpg]
                             [**2165-10-3**]  11:00 AM
                             [**2165-10-3**]  01:19 PM
                             [**2165-10-3**]  06:00 PM
                             [**2165-10-3**]  06:07 PM
                             [**2165-10-3**]  07:53 PM
                             [**2165-10-3**]  09:26 PM
                             [**2165-10-4**]  03:04 AM
                             [**2165-10-4**]  03:22 AM
                             [**2165-10-4**]  12:47 PM
                             [**2165-10-5**]  02:36 AM
   WBC
   13.0
   13.5
   Hct
   27.3
   29.2
   28.5
   Plt
   237
   259
   Cr
   0.9
   0.9
   TropT
   <0.01
   <0.01
   TCO2
   25
   26
   26
   25
   26
   25
   Glucose
   97
   100
   Other labs: PT / PTT / INR:13.9/30.3/1.2, CK / CKMB /
   Troponin-T:435/5/<0.01, ALT / AST:14/39, Alk Phos / T Bili:60/1.6,
   Differential-Neuts:92.4 %, Band:19.0 %, Lymph:5.0 %, Mono:1.6 %,
   Eos:0.9 %, Lactic Acid:1.6 mmol/L, Albumin:2.1 g/dL, LDH:303 IU/L,
   Ca++:8.2 mg/dL, Mg++:1.7 mg/dL, PO4:2.2 mg/dL
   Imaging: CXR:  Multi-focal bilateral infiltrates, dense consolidation
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**]) secondary to pneumococcal
   pneumonia, sensitive to levofloxicin. CXR seems stable to slightly
   better on right.
 HYPOTENSION (NOT SHOCK)
 HYPOTHYROIDISM:  On levothyoxine.  Check thyroid studies.
 ALTERED MENTAL STATUS (NOT DELIRIUM): Mental status improving
   overnight albeit still remains confused.  [**Month (only) 8**] be related to meds
   (received ativan earlier this am).  Correct electrolytes (K/Mg). Watch
   sodium, monitor free water deficit.  Thyroid studies.  If mental status
   continues to improve will consider starting on clear liquid diet with
   observation.
 ANEMIA:  Initial drop on this admission likely related to dehydration
   and volume resusitation.  Guaiac all stools.  Send iron studies.
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2165-10-2**] 12:42 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: Mouth care
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2165-10-06 06:43:00 Physician Resident Progress Note
Chief Complaint: 51 yom with h/o PAP admitted with S.P. pneumonia,
   bacteremia and sepsis.
   24 Hour Events:
   - patient febrile to 101.2
   - improving mental status now on diet and off restraints
   - episode of CP at 0100, ECG unremarkable and CE negative.  Pain
   reproducible on exam.  The episode suddenly ended.  He was given
   nebulizer for wheezing and acetaminophen.
   .
   Allergies:
   Amoxicillin
   Hives;
   Last dose of Antibiotics:
   Aztreonam - [**2165-10-3**] 08:03 AM
   Vancomycin - [**2165-10-3**] 09:42 AM
   Levofloxacin - [**2165-10-5**] 10:04 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2165-10-5**] 04:04 PM
   Famotidine (Pepcid) - [**2165-10-5**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-10-6**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 36.7
C (98
   HR: 81 (81 - 98) bpm
   BP: 142/82(96) {109/59(70) - 154/87(101)} mmHg
   RR: 25 (18 - 41) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 12 (3 - 16)mmHg
   Total In:
                                                                  2,751 mL
                                                                  1,200 mL
   PO:
                                                                    120 mL
   TF:
   IVF:
                                                                  2,631 mL
                                                                  1,200 mL
   Blood products:
   Total out:
                                                                  1,570 mL
                                                                    580 mL
   Urine:
                                                                  1,570 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,181 mL
                                                                    620 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 93%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   298 K/uL
   9.6 g/dL
   99 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.0 mEq/L
   10 mg/dL
   110 mEq/L
   141 mEq/L
   29.4 %
   13.6 K/uL
        [image002.jpg]
                             [**2165-10-3**]  07:53 PM
                             [**2165-10-3**]  09:26 PM
                             [**2165-10-4**]  03:04 AM
                             [**2165-10-4**]  03:22 AM
                             [**2165-10-4**]  12:47 PM
                             [**2165-10-5**]  02:36 AM
                             [**2165-10-5**]  09:36 PM
                             [**2165-10-6**]  12:47 AM
                             [**2165-10-6**]  05:11 AM
                             [**2165-10-6**]  05:12 AM
   WBC
   13.0
   13.5
   13.6
   Hct
   29.2
   28.5
   29.4
   Plt
   237
   259
   298
   Cr
   0.9
   0.9
   0.8
   0.8
   TropT
   <0.01
   <0.01
   TCO2
   26
   25
   26
   25
   Glucose
   97
   100
   129
   99
   Other labs: PT / PTT / INR:13.9/30.3/1.2, CK / CKMB /
   Troponin-T:77/5/<0.01, ALT / AST:14/39, Alk Phos / T Bili:60/1.6,
   Differential-Neuts:92.1 %, Band:19.0 %, Lymph:4.7 %, Mono:2.5 %,
   Eos:0.5 %, Lactic Acid:1.6 mmol/L, Albumin:2.1 g/dL, LDH:303 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:2.1 mg/dL
   Microbiology
   Imaging
   Assessment and Plan
   Assessment/Plan
   51 yo man with IBD, pulmonary alveolar proteinosis who presents from
   [**Hospital6 6222**] with pneumonia and respiratory failure.
   # Respiratory failure/Pneumonia: Likely secondary to acute infectious
   pneumonia in setting of chronic lung disease.  Cx from outside
   hospital  Community acquired most likely, especially given GPC growing
   in sputum at [**Hospital6 6222**]. Studies for Nocardia and PCP
   are pending.
   -Currently on high Flow O2.  SpO2 is 95%, Follow blood gas, continue on
   high-flow mask and wean off O2 as tolerated.
   - cx data from OSH hospital suggestive of 3+ presumptive Strep PNA and
   strep bacteremia; continue levofloxacin (strep in blood and sptum from
   OSH is sensitive to levoquin;)
   - Follow sputum and BAL cultures - specify modified AFB for Nocardia,
   PCP
   [**Name Initial (PRE) **] Follow repeat CXR from this AM
 not significantly changed from
   prior, possibly improved aeration in LL lung
   - bronchoscopy performed with aspiration of large mucus plug; consider
   starting chest PT, mucolytics
   - No need for whole lung lavage as unclear how much PAP is playing a
   role in current presentation; unilateral disease makes it less likely;
   consider sending out GM-CSF antibodies
   # Hypotension: Likely secondary to underlying sepsis/distributive shock
   given high MVO2.
   -Continue to tx underlying infection as above
   -Continue maintainence fluids
   -Has not required pressors; titrate to MAP > 60
   #Mental Status changes - [**Month (only) 8**] be secondary to sepsis, however, improving
   from his infection stand point.
   - Thyroid levels checked - T3, T4 levels low.  However, in setting of
   acute illness not reliable.
   - replete lytes
   - No signs of meningismus, LP deferred
   #Anemia: Hematocrit has trended down.  Check afternoon HCT.  Likely
   secondary to fluid boluses this AM and multiple blood draws.
   -HCTs were stable over past 24 hours
   -hold on any iron studies given that this is more likely an acute
   change rather than a chronic process
   - check stool guiac
   #Pericardial effusion
 Unlikely due to volume overload given that
   there are no pleural effusions.  Could be secondary to infectious
   etiology (in setting of strep pneumonia); no signs of tamponade.
   -troponins negative, making an infectious process less likely
   # Acute renal failure:  Resolved, likely prerenal given response to
   fluids, trend Cr
   # EKG changes: Some nonspecific ST segment abnormalities on lateral
   leads. No risk factors for CAD
   -1X troponins negative; echo does not show any wall abnormalities
   -no events on telemetry
   # Hypothyroidism: IV levothyroxine - home dose
   # FEN: replete lytes, po nutrition once mental status clears
   .
   Access:  Left subclavian.
   # Code: FULL
   # Contact: Wife [**Name (NI) 2519**]
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2165-10-2**] 12:42 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2165-10-06 11:57:00 Physician Attending Progress Note
Chief Complaint: Pneumococcal pneumonia, bacteremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 101.2
F - [**2165-10-5**] 04:00 PM
   Episode of chest pain, ECG unchanged.  Pain reproducible with palpation
   - given tylenol and it resolved.
   History obtained from Patient
   Allergies:
   Amoxicillin
   Hives;
   Last dose of Antibiotics:
   Levofloxacin - [**2165-10-5**] 10:04 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2165-10-5**] 04:04 PM
   Famotidine (Pepcid) - [**2165-10-5**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: Dry mouth
   Respiratory: Cough, Dyspnea
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2165-10-6**] 11:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 36.7
C (98
   HR: 81 (81 - 98) bpm
   BP: 142/82(96) {109/59(70) - 147/87(98)} mmHg
   RR: 25 (18 - 41) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
   CVP: 12 (12 - 16)mmHg
   Total In:
                                                                  2,751 mL
                                                                  1,234 mL
   PO:
                                                                    120 mL
   TF:
   IVF:
                                                                  2,631 mL
                                                                  1,234 mL
   Blood products:
   Total out:
                                                                  1,570 mL
                                                                    580 mL
   Urine:
                                                                  1,570 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,181 mL
                                                                    654 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 93%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: left base,
   Rhonchorous: Left > Right)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x 3, Movement: Not assessed, Tone: Normal
   Labs / Radiology
   9.6 g/dL
   298 K/uL
   99 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.0 mEq/L
   10 mg/dL
   110 mEq/L
   141 mEq/L
   29.4 %
   13.6 K/uL
        [image002.jpg]
                             [**2165-10-3**]  07:53 PM
                             [**2165-10-3**]  09:26 PM
                             [**2165-10-4**]  03:04 AM
                             [**2165-10-4**]  03:22 AM
                             [**2165-10-4**]  12:47 PM
                             [**2165-10-5**]  02:36 AM
                             [**2165-10-5**]  09:36 PM
                             [**2165-10-6**]  12:47 AM
                             [**2165-10-6**]  05:11 AM
                             [**2165-10-6**]  05:12 AM
   WBC
   13.0
   13.5
   13.6
   Hct
   29.2
   28.5
   29.4
   Plt
   237
   259
   298
   Cr
   0.9
   0.9
   0.8
   0.8
   TropT
   <0.01
   <0.01
   TCO2
   26
   25
   26
   25
   Glucose
   97
   100
   129
   99
   Other labs: PT / PTT / INR:13.9/30.3/1.2, CK / CKMB /
   Troponin-T:77/5/<0.01, ALT / AST:14/39, Alk Phos / T Bili:60/1.6,
   Differential-Neuts:92.1 %, Band:19.0 %, Lymph:4.7 %, Mono:2.5 %,
   Eos:0.5 %, Lactic Acid:1.6 mmol/L, Albumin:2.1 g/dL, LDH:303 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**]) secondary to pneumococcal
   pneumonia, sensitive to levofloxicin. CXR today shows decreased
   consolidation on left base; more confluent in RUL.  Followup on
   remaining respiratory cultures.   Quite weak as been lying in bed; out
   of bed to chair as tolerated.  PT consult.

 HYPOTHYROIDISM:  On levothyoxine.  Check thyroid studies.
 FEVER:  Had defervesced with low grade temps, repeat temp spike
   overnight.  Send blood and urine cultures, don't change antibiotics.
   Sputum for repeat gram stain and culture if productive. If persistently
   febrile consider diagnostic thorocentesis.

 ALTERED MENTAL STATUS (NOT DELIRIUM): Mental status continues to
   improve.

 ANEMIA:  Initial drop on this admission likely related to
   dehydration and volume resusitation.  Guaiac all stools.  Send iron
   studies.
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN):   Reproducible chest pain
   with palpation overnight, improved with tylenol.  No pain this
   morning.
 NUTRITION:  Clear liquid diet, advance as tolerated.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2165-10-2**] 12:42 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2165-10-07 07:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - patient continues to do well off vent on high flow O2 face mask
   - central line and foley discontinued
   - given zolpidem for sleep
   Allergies:
   Amoxicillin
   Hives;
   Last dose of Antibiotics:
   Levofloxacin - [**2165-10-6**] 10:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2165-10-6**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2165-10-6**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-10-7**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.7
C (98
   HR: 77 (77 - 105) bpm
   BP: 119/64(75) {96/54(67) - 158/88(101)} mmHg
   RR: 10 (10 - 39) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 6 (6 - 10)mmHg
   Total In:
                                                                  2,276 mL
   PO:
                                                                    780 mL
   TF:
   IVF:
                                                                  1,496 mL
   Blood products:
   Total out:
                                                                  2,310 mL
                                                                    550 mL
   Urine:
                                                                  1,860 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -34 mL
                                                                   -550 mL
   Respiratory support
   O2 Delivery Device: Medium conc mask
   SpO2: 93%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   381 K/uL
   9.7 g/dL
   137 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.5 mEq/L
   9 mg/dL
   110 mEq/L
   141 mEq/L
   29.2 %
   11.2 K/uL
        [image002.jpg]
                             [**2165-10-3**]  09:26 PM
                             [**2165-10-4**]  03:04 AM
                             [**2165-10-4**]  03:22 AM
                             [**2165-10-4**]  12:47 PM
                             [**2165-10-5**]  02:36 AM
                             [**2165-10-5**]  09:36 PM
                             [**2165-10-6**]  12:47 AM
                             [**2165-10-6**]  05:11 AM
                             [**2165-10-6**]  05:12 AM
                             [**2165-10-7**]  04:08 AM
   WBC
   13.0
   13.5
   13.6
   11.2
   Hct
   29.2
   28.5
   29.4
   29.2
   Plt
   237
   259
   298
   381
   Cr
   0.9
   0.9
   0.8
   0.8
   0.8
   TropT
   <0.01
   <0.01
   TCO2
   25
   26
   25
   Glucose
   97
   100
   129
   99
   137
   Other labs: PT / PTT / INR:13.9/30.3/1.2, CK / CKMB /
   Troponin-T:77/5/<0.01, ALT / AST:14/39, Alk Phos / T Bili:60/1.6,
   Differential-Neuts:92.1 %, Band:19.0 %, Lymph:4.7 %, Mono:2.5 %,
   Eos:0.5 %, Lactic Acid:1.6 mmol/L, Albumin:2.1 g/dL, LDH:303 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Fluid analysis / Other labs: (from [**2165-10-4**]):
   pO2 100
   pCO2 34
   pH 7.47*
   Imaging: CXR from [**2165-10-6**]:
   Aeration in the left lung has improved though large areas of
   consolidation
   persist throughout particularly in the lower lobe. Some of the apparent
   improvement on the left may have been due to involution of pleural
   effusion, now small to moderate. On the right, upper lobe pneumonia has
   grown more coalescent, but only a small region of consolidation is seen
   in the lower lobe. Overall the findings suggest worsening between
   [**10-4**] and 3, and subsequent improvement.
   Microbiology: 3+ S pneumo sensitive to levoquin from sputum cx and
   blood cxs from OSH
   .
   C diff (-)
   Assessment and Plan
   Assessment and Plan
   51 yom w/ hx of PAP admitted with S.P. pneumosepsis.
   # Respiratory failure / pneumonia  - secondary to florid pneumonia in
   setting of chronic lung disease (PAP) with modest improvements since
   admission.
   - continue levaquin per sensitivities from OSH - S.P. pos. blood and
   sputum cultures
   - f/u cultures for Nocardia (modified AFB) and PCP (Ag stain)
   - f/u cultures and daily CXR
   - continue to monitor respiratory status on high flow O2 mask with
   periodic ABG
 hypoxia is primary process
   # Mental Status Changes
 likely secondary to underlying septic
   picture.  LP initially deferred as mental status improving and no
   clinical signs suggestive of meningitis. CT head performed on [**10-4**] was
   negative for any acute process.
   - continue to limit sedation and narcotics
   - consider LP if continued or progressing AMS changes
   # Pericardial effusion
 unclear etiology although was initially
   attributed to possible infectious process although negative troponins,
   no signs of hemodynamic compromise suggestive of tamponade.
   - continue to monitor vital signs for hypotension and tachycardia
   # Hypothyroidism:  continue levothyroxine
   # FEN: continue regular diet, replete electrolytes as needed
   .
   # Access:  Left subclavian
 plan to exchange for peripheral lines
   today
   # Code: FULL
   # Contact: Wife [**Name (NI) 2519**]
   # Dispo: ICU
 possible to floor pending successful titration of O2
   requirements
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2165-10-6**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: